US04056674
5-Cyanomethyl-1-(5-deoxy-β-D-ribofuranosyl)imidazole-4-carboxamide (Compound 15)
A mixture of methyl 5-cyanomethyl-1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)imidazole-4-carboxylate (2.20 g, 6.03 mmol) and liquid ammonia (30 ml) was placed in a steel bomb (40 ml) and heated at 100° for 7 hr. The ammonia was allowed to evaporate and the residue was subjected to a vacuum overnight to remove the last traces. The residue was absorbed on silica gel (5 g) and placed on a column of silica gel (60 g, packed in chloroform). Elution with chloroform-methanol (4:1) provided the pure product. Recrystallization from methanol provided colorless cubes (1.42 g, 88%); mp 173°-174° after drying at 100° for 3 hr; [α]D25 -47.8 C=1, H2O); uv λmaxpH 1 218 nm (ε 10,000), λmaxpH 7 233 nm (ε 10,200), λmaxpH 11 234 nm (ε 9,730); pmr (DMSO-d6): δ 1.35 (d,3,CH3), 5.66 (d,1,H1'), J = 5 Hz, 7.45 (d,2,NH2), 8.02 (s,1,C2H).

reactant | methyl 5-cyanomethyl-1-(5-deoxy-2,3-di-O-acetyl-β-D-ribofuranosyl)imidazole-4-carboxylate | 6.03 mmol, 2.20 g | C(#N)CC1=C(N=CN1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C(=O)OC | C16H19N3O7
reactant | ammonia | 30 ml | N | H3N
product | 5-Cyanomethyl-1-(5-deoxy-β-D-ribofuranosyl)imidazole-4-carboxamide | C(#N)CC1=C(N=CN1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C(=O)N | C11H14N4O4
